US09212186B2
Step 2—ethyl 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylate
A mixture of 5,6-dihydro-4H-pyrrolo[1,2-c]oxadiazol-7-ium-3-olate (355.4 mg, 2.82 mmol) and ethyl propiolate (0.87 mL, 8.46 mmol) in xylene (10 mL) in a round-bottom flask equipped with a condenser was heated to 125° C. overnight. The reaction mixture was concentrated in vacuo, adsorbed onto silica and purified by column chromatography (0-100% EtOAc in Heptane) to afford the title compound as a yellow oil (161 mg, 32%, more polar regioisomer). 1H NMR (400 MHz, CDCl3) δ 7.90 (s, 1H), 4.27 (q, J=7.1 Hz, 2H), 4.16 (t, J=7.3 Hz, 2H), 3.09 (t, J=7.4 Hz, 2H), 2.70-2.60 (m, 2H), 1.33 (t, J=7.1 Hz, 3H). LC-MS (ESI): m/z=181.1 (M+H)+.

reactant | 5,6-dihydro-4H-pyrrolo[1,2-c]oxadiazol-7-ium-3-olate | 2.82 mmol, 355.4 mg | N=1OC(=C2[N+]1CCC2)[O-] | C5H6N2O2
reactant | ethyl propiolate | 8.46 mmol, 0.87 mL | C(C#C)(=O)OCC | C5H6O2
reactant | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2—ethyl 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylate | N=1N2C(=C(C1)C(=O)OCC)CCC2 | C9H12N2O2
